US08809369B2
The mixture solution of 4-aminobenzoic acid methyl ester (10.8 g, 71.4 mmol), 2,4-difluoro-benzaldehyde (10.3 g, 72.4 mmol) and p-toluenesulfonic acid (271.8 mg, 1.4 mmol) in toluene (150 mL) was heated to reflux for 12 h. Then the reaction mixture was cooled to room temperature. The solvent was removed in vacuo and the residue was washed with ether to afford 4-{[1-(2,4-difluoro-phenyl)-meth-(E)-ylidene]amino}-benzoic acid methyl ester (19.64 g, quant.) as a light yellow solid: MS (ESI) M+1=276.1.

reactant | 4-aminobenzoic acid methyl ester | 71.4 mmol, 10.8 g | COC(C1=CC=C(C=C1)N)=O | C8H9NO2
reactant | 2,4-difluoro-benzaldehyde | 72.4 mmol, 10.3 g | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 1.4 mmol, 271.8 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 4-{[1-(2,4-difluoro-phenyl)-meth-(E)-ylidene]amino}-benzoic acid methyl ester | 19.64 g | COC(C1=CC=C(C=C1)/N=C/C1=C(C=C(C=C1)F)F)=O | C15H11F2NO2
